US09120777B2
N) 1-(1-((6-Cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid
2M aqueous sodium hydroxide solution (690 mL) was added to a solution of methyl 1-(1-((6-cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylate hydrochloride (270 g) in methanol (1.35 L) at room temperature. The mixture was stirred at 50 C for 2 hours and cooled to room temperature. Water (2.70 L) was added to the reaction mixture. The mixture was concentrated in vacuo to remove methanol and neutralized with 2M hydrochloric acid (460 mL) at room temperature. Crystalline seeds were added to the mixture. The mixture was stirred at room temperature for 17 hours. The precipitate was collected by filtration, washed with water (7.00 L) and dried in vacuo at 65 C for 24 hours to give the title compound (245.3 g).

reactant | sodium hydroxide | 2M, 690 mL | [OH-].[Na+]
reactant | methyl 1-(1-((6-cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylate hydrochloride | 270 g | Cl.C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OC(C)C)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)OC)C)=O
reactant | Water | 2.70 L | O | H2O
solvent | methanol | 1.35 L | CO | CH4O
product | 1-(1-((6-Cyclopropyl-2,4′-difluoro-3-isopropoxybiphenyl-4-yl)methyl)piperidin-4-yl)-3-methyl-2-oxo-1,2-dihydropyridine-4-carboxylic acid | 245.3 g | C1(CC1)C1=CC(=C(C(=C1C1=CC=C(C=C1)F)F)OC(C)C)CN1CCC(CC1)N1C(C(=C(C=C1)C(=O)O)C)=O | C31H34F2N2O4
